US05346881
A 1 M solution of boron tribromide in methylene chloride (500 mL, 0.50 mole) was cooled to -78 ° C. To this solution was added in a dropwise manner a solution of 46 g (0.30 mole) of 1,2-dimethoxy-4-fluorobenzene in 100 mL of methylene chloride. Upon completion of addition, the mixture was allowed to warm to ambient temperature at which it stirred for about 16 hours. At the conclusion of this period the reaction mixture was cooled to 0° C., and ethanol was added to the reaction mixture. The solvents were evaporated under reduced pressure, leaving 40 g of 1,2-dihydroxy-4-fluorobenzene as a residue. The NMR spectrum was consistent with the proposed structure.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1,2-dimethoxy-4-fluorobenzene | 0.30 mole, 46 g | COC1=C(C=C(C=C1)F)OC | C8H9FO2
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.50 mole, 500 mL | C(Cl)Cl | CH2Cl2
product | 1,2-dihydroxy-4-fluorobenzene | 40 g | OC1=C(C=C(C=C1)F)O | C6H5FO2
